US05344843
A stirred mixture of 2-(2-naphthalenyloxy)ethanamine (4.9 g) in dichloromethane (25 mL) and triethylamine (5 mL) was chilled to 0° C. and treated with the acid chloride prepared from 4-acetyl benzoic acid (4.3 g) and then the mixture was stirred at room temperature for 10 minutes. The mixture was diluted with water and acidified with excess 2N hydrochloric acid, extracted with dichloromethane and the organic layer was washed in turn with sodium bicarbonate solution and saturated sodium chloride solution. The organic layer was dried (Na2SO4), filtered, and evaporated to give crude material which was purified by HPLC (ethyl acetate-dichloromethane; 1:9) and crystallized from ethyl acetate to provide 4.7 g of 4-acetyl-N-[2-(2-naphthalenyloxy)ethyl]benzamide as a colorless solid, mp 131°-132° C.

reactant | 2-(2-naphthalenyloxy)ethanamine | 4.9 g | C1=C(C=CC2=CC=CC=C12)OCCN | C12H13NO
reactant | 4-acetyl benzoic acid | 4.3 g | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 4-acetyl-N-[2-(2-naphthalenyloxy)ethyl]benzamide | 4.7 g | C(C)(=O)C1=CC=C(C(=O)NCCOC2=CC3=CC=CC=C3C=C2)C=C1 | C21H19NO3
